US04877796
A solution of 13.70 g of 5,6,7,8-tetrahydro-8-chloroquinoline (preparation given below), 86 ml of acetonitrile and 15.2 ml of methyl iodide was stirred for 68 hours at ambient temperature and crystallization was started after 50 minutes of reaction. The crystals were separated, rinsed with acetonitrile, then with ether and dried under reduced pressure at 20° C. to obtain 29.96 g of 8-iodo-1-methyl-5,6,7,8-tetrahydro-1-quinolinium iodide melting at 175° C.

reactant | 5,6,7,8-tetrahydro-8-chloroquinoline | 13.70 g | ClC1CCCC=2C=CC=NC12 | C9H10ClN
reactant | methyl iodide | 15.2 ml | CI | CH3I
reactant | acetonitrile | 86 ml | C(C)#N | C2H3N
product | 8-iodo-1-methyl-5,6,7,8-tetrahydro-1-quinolinium iodide | 29.96 g | [I-].IC1CCCC=2C=CC=[N+](C12)C | InChI=1S/C10H13IN.HI/c1-12-7-3-5-8-4-2-6-9(11)10(8)12;/h3,5,7,9H,2,4,6H2,1H3;1H/q+1;/p-1
